US09403798B2
1-(4-Chlorobenzyl)-4-[4-(5-chlorothiophen-2-yl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one
An N,N-dimethylaminoethanol suspension (1 mL) of 1-(4-chlorobenzyl)-4-(piperazin-1-yl)-1,3,5-triazin-2(1H)-one (30 mg, 0.10 mmol) synthesized in Reference Synthesis Example 9, 2-bromo-5-chlorothiophene (110 μL, 0.10 mmol), copper (3.0 mg, 0.05 mmol), copper (I) iodide (9 mg, 0.05 mmol), and potassium phosphate (43 mg, 0.20 mmol) was stirred at 80° C. for 3 days. After the completion of the reaction, water was added to the reaction solution and extraction with ether and ethyl acetate from the resultant reaction solution was performed. The organic layer was washed with brine, was dried over anhydrous sodium sulfate, and was concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (ethyl acetate/methanol) to obtain the title compound (0.5 mg, yield: 1.2%).

reactant | N,N-dimethylaminoethanol | 1 mL | CN(C)CCO | C4H11NO
reactant | 1-(4-chlorobenzyl)-4-(piperazin-1-yl)-1,3,5-triazin-2(1H)-one | 0.10 mmol, 30 mg | ClC1=CC=C(CN2C(N=C(N=C2)N2CCNCC2)=O)C=C1 | C14H16ClN5O
reactant | 2-bromo-5-chlorothiophene | 0.10 mmol, 110 μL | BrC=1SC(=CC1)Cl | C4H2BrClS
reactant | potassium phosphate | 0.20 mmol, 43 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper | 0.05 mmol, 3.0 mg | [Cu] | Cu
catalyst | copper (I) iodide | 0.05 mmol, 9 mg | [Cu]I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 1-(4-Chlorobenzyl)-4-[4-(5-chlorothiophen-2-yl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one | 0.5 mg, yield: 1.2% | ClC1=CC=C(CN2C(N=C(N=C2)N2CCN(CC2)C=2SC(=CC2)Cl)=O)C=C1 | C18H17Cl2N5OS
